US08349851B2
To solution of 2-amino-3-methylbenzoic acid (4.0 g, 26.5 mmol) in degassed DMF (40 mL) were added HOBt (4.28 g, 31.7 mmol), DIEA (5.52 mL, 31.7 mmol), and 2N NH3/MeOH (19 mL, 37.1 mmol). The solution was stirred at rt for 16 h, then the mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography eluting with 10-60% EtOAc/hexanes to afford 2-amino-3-methylbenzamide as a solid (2.52 g, 63%). 1H NMR (300 MHz, DMSO-d6) δ 2.07 (s, 3H), 6.40-6.47 (m, 3H), 7.06 (m, 2H), 7.42 (d, 1H), 7.72 (br d, 1H).

reactant | 2-amino-3-methylbenzoic acid | 26.5 mmol, 4.0 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | HOBt | 31.7 mmol, 4.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 31.7 mmol, 5.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 MeOH | 37.1 mmol, 2N, 19 mL | N.CO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-amino-3-methylbenzamide | 2.52 g, 63% | NC1=C(C(=O)N)C=CC=C1C | C8H10N2O
